US07569600B2
To a solution of 1,4-dioxa-spiro[4.5]decan-8-ol (1.85 mg, 11.70 mmol), phenol (1.0 g, 10.64 mmol), PPh3 (3.07 g, 11.70 mmol) in 15 mL of THF at 0° C. was added diisopropyl azodicarboxylate (6 mL, 11.70 mmol, 40% in toluene). The reaction mixture was stirred at room temperature for 48 h. Excess THF was removed in rotary evaporator and the residue was purified by silica gel column chromatography using ethyl acetate and hexane (1:19) to obtain 8-phenoxy-1,4-dioxa-spiro[4.5]decane (1.3 g, 52%) as a solid.

reactant | 1,4-dioxa-spiro[4.5]decan-8-ol | 11.70 mmol, 1.85 mg | O1CCOC12CCC(CC2)O | C8H14O3
reactant | phenol | 10.64 mmol, 1.0 g | C1(=CC=CC=C1)O | C6H6O
reactant | PPh3 | 11.70 mmol, 3.07 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | diisopropyl azodicarboxylate | 11.70 mmol, 6 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 8-phenoxy-1,4-dioxa-spiro[4.5]decane | 1.3 g, 52% | O(C1=CC=CC=C1)C1CCC2(OCCO2)CC1 | C14H18O3
